US07273878B2
To 5 ml of N,N-dimethylformamide were dissolved 0.40 g (1.4 mmol) of 6,6-difluoro-5-methyl-5-hexenyl 1H-indole-5-carboxylate and 0.40 g (2.8 mmol) of methyl iodide, followed by the addition of 0.07 g (1.7 mmol) of sodium hydride at room temperature and stirring at the same temperature for 1 hour. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:5) to obtain 0.36 g (yield: 86%) of 6,6-difluoro-5-methyl-5-hexenyl 1-methyl-1H-indole-5-carboxylate.

reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 6,6-difluoro-5-methyl-5-hexenyl 1H-indole-5-carboxylate | 1.4 mmol, 0.40 g | N1C=CC2=CC(=CC=C12)C(=O)OCCCCC(=C(F)F)C | C16H17F2NO2
reactant | methyl iodide | 2.8 mmol, 0.40 g | CI | CH3I
reactant | sodium hydride | 1.7 mmol, 0.07 g | [H-].[Na+]
solvent | water | O | H2O
product | 6,6-difluoro-5-methyl-5-hexenyl 1-methyl-1H-indole-5-carboxylate | 0.36 g, yield: 86% | CN1C=CC2=CC(=CC=C12)C(=O)OCCCCC(=C(F)F)C | C17H19F2NO2
